US06054453
Ethyl 3-[4-benzyloxyphenyl]-2-butoxypropanoate:
A solution of ethyl 3-[4-benzyloxyphenyl)-2-hydroxypropanoate (5.0 g, 16.6 mmol) (prepared in a similar manner as described in Ref: WO95/18125) in dry dimethyl formamide (5 mL) was added to a suspension of sodium hydride (0.1 g, 41.6 mmol) (60% dispersion in oil) in dry dimethyl formamide (3 mL) at 0° C. and stirring was continued for further 1 h. To the above reaction mixture n-butyl bromide (3.4 g, 24.0 mmol) was added at 0° C. and stirring was continued for 10 h at ca. 25° C. Water (30 mL) was added and extracted with ethyl acetate (2×50 mL). The combined ethyl acetate layer was washed with water (50 mL), brine (25 mL), dried (Na2SO4), filtered and the solvent was evaporated. The residue was chromatographed over silica gel using a mixture of ethyl acetate and and pet. ether (1:9) as an eluent to afford the title compound (0.7 g, 20%) as an oil.

reactant | ethyl 3-[4-benzyloxyphenyl)-2-hydroxypropanoate | 16.6 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)O | C18H20O4
reactant | sodium hydride | 41.6 mmol, 0.1 g | [H-].[Na+]
reactant | n-butyl bromide | 24.0 mmol, 3.4 g | C(CCC)Br | C4H9Br
reactant | Water | 30 mL | O | H2O
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 3 mL | CN(C=O)C | C3H7NO
product | Ethyl 3-[4-benzyloxyphenyl]-2-butoxypropanoate | 0.7 g, 20% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OCCCC | C22H28O4
